US06573289B1
Production of 1-[5-(1-Hydroxyethyl)-6-methoxynaphthalen-2-yl]-1-[1H-imidazol-4-yl]-2-methyl-1-propanol
1-[5-[1-(tert-Butyldimethylsilyloxy)ethyl]-6-methoxynaphthalen-2-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol (0.499 g) was dissolved in THF (5 ml). To the solution was added tetrabutylammonium fluoride (1.0M in THF; 5 ml), and the mixture was stirred at 60° C. for 8 h. The reaction mixture was concentrated. The obtained residue was purified by silica gel column chromatography (eluent, ethyl acetate:methanol=1:0→10:1) and washed with hexane to give the titled compound (0.24 g) as an amorphous product.

reactant | 1-[5-[1-(tert-Butyldimethylsilyloxy)ethyl]-6-methoxynaphthalen-2-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.499 g | [Si](C)(C)(C(C)(C)C)OC(C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CNC1 | C26H38N2O3Si
reactant | tetrabutylammonium fluoride | 1.0M, 5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-[5-(1-Hydroxyethyl)-6-methoxynaphthalen-2-yl]-1-[1H-imidazol-4-yl]-2-methyl-1-propanol | 0.24 g | OC(C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CNC1 | C20H24N2O3
